US07714010B2
Analogously to general procedure (I) N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide (2 g) is alkylated in a high pressure reaction vessel using 1-iodo-4,4,4-trifluoro-butane (3.62 g; 15.2 mmol) and K2CO3 (2.1 g; 15.2 mmol) at 60° C. for 3 days. After aqueous work-up and purification by RP chromatography the pure material (1.92 g) is de-acetylated in MeOH (200 ml) using DBU (1.6 ml) at reflux. After aqueous work-up 5-amino-3,3-dimethyl-6-nitro-1-(4,4,4-trifluoro-butyl)-1,3-dihydro-indol-2-one (1.65 g) is obtained and used without further purification.

reactant | N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | 2 g | CC1(C(NC2=CC(=C(C=C12)NC(C)=O)[N+](=O)[O-])=O)C | C12H13N3O4
reactant | 1-iodo-4,4,4-trifluoro-butane | 15.2 mmol, 3.62 g | ICCCC(F)(F)F | C4H6F3I
reactant | K2CO3 | 15.2 mmol, 2.1 g | C(=O)([O-])[O-].[K+].[K+]
product | 5-amino-3,3-dimethyl-6-nitro-1-(4,4,4-trifluoro-butyl)-1,3-dihydro-indol-2-one | 1.65 g | NC=1C=C2C(C(N(C2=CC1[N+](=O)[O-])CCCC(F)(F)F)=O)(C)C | C14H16F3N3O3
